US05840726
Synthesis of N-t-Butoxycarbonyl-N-(2-oxo-ethyl)-2-phenyl-ethylamine
Combine phenethylamine hydrochloride (15.8 g, 100 mmol) and N-methylmorpholine (11 mL, 100 mmol) in dichloromethane (100 mL). Cool to 0° C. Add dimethylaminopyridine (1.0 g, 8.2 mmol) and di-t-butyl dicarbonate (22.0 g, 100 mmol) and allow to stir at 0° C. for 1 hour. Warm to ambient temperature and stir for 18 hours. Evaporate in vacuo to give a residue. Dilute the residue with ethyl acetate and extract with water. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound.

reactant | phenethylamine hydrochloride | 100 mmol, 15.8 g | Cl.C(CC1=CC=CC=C1)N
reactant | N-methylmorpholine | 100 mmol, 11 mL | CN1CCOCC1 | C5H11NO
reactant | dimethylaminopyridine | 8.2 mmol, 1.0 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-t-butyl dicarbonate | 100 mmol, 22.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-t-Butoxycarbonyl-N-(2-oxo-ethyl)-2-phenyl-ethylamine | C(C)(C)(C)OC(=O)N(CC=O)CCC1=CC=CC=C1 | C15H21NO3
